US08242313B2
5,5,5-Trifluoro-2-methoxy-4-oxopent-2-en-1-yl acetate
24.8 g (0.1 mol) of 5-bromo-1,1,1-trifluoro-4-methoxypent-3-en-2-one, 20 g of potassium acetate, 5 g of tetrabutylammonium bromide and 8 g of acetic acid were stirred in 300 ml of acetonitrile at 40° C. for 20 h. The precipitate was filtered off and the solvent was removed completely under reduced pressure.

reactant | 5-bromo-1,1,1-trifluoro-4-methoxypent-3-en-2-one | 0.1 mol, 24.8 g | BrCC(=CC(C(F)(F)F)=O)OC | C6H6BrF3O2
reactant | potassium acetate | 20 g | C(C)(=O)[O-].[K+]
reactant | acetic acid | 8 g | C(C)(=O)O | C2H4O2
catalyst | tetrabutylammonium bromide | 5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 5,5,5-Trifluoro-2-methoxy-4-oxopent-2-en-1-yl acetate | C(C)(=O)OCC(=CC(C(F)(F)F)=O)OC | C8H9F3O4
